US07671063B2
SnCl2-dihydrate (1117 mg, 4.95 mmol) is added to a solution of N-Benzyl-N,2-dimethyl-5-nitro-aniline (247 mg, 0.96 mmol) in methanol (10 mL) and conc. HCl (1 mL). After boiling under reflux for 2.5 h, volatiles are evaporated under reduced pressure and the residue is partitioned between EtOAc and water, the pH being adjusted to approx. 10 by the addition of 2N NaOH. The organic layer is washed with sat. brine, dried (Na2SO4), and evaporated. Chromatography of the residue (silica gel, hexanes/EtOAc 3:2) yields N3-benzyl-N3,4-dimethyl-benzene-1,3-diamine

reactant | N-Benzyl-N,2-dimethyl-5-nitro-aniline | 0.96 mmol, 247 mg | C(C1=CC=CC=C1)N(C1=C(C=CC(=C1)[N+](=O)[O-])C)C | C15H16N2O2
solvent | methanol | 10 mL | CO | CH4O
solvent | HCl | 1 mL | Cl | ClH
product | N3-benzyl-N3,4-dimethyl-benzene-1,3-diamine | C(C1=CC=CC=C1)N(C=1C=C(C=CC1C)N)C | C15H18N2
